Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Exertional chest pain
 
Major Surgical or Invasive Procedure:
___: Off-pump coronary artery bypass graft x1 with 
skeletonized left internal mammary artery graft to left anterior 
descending artery.
 
History of Present Illness:
Mr. ___ is a very nice ___ year old man with a history of 
new onset diabetes mellitus type 2, hyperlipidemia, and 
hypertension. He has had exertional substernal chest pain that 
is relieved with rest. He had a stress test on ___ which 
was positive or ischemia with > than 1mm ST depression during 
exercise and recovery in leads II, III, aVF, V4-V6. He was 
referred for coronary angiogram which revealed two-vessel 
coronary artery disease. Cardiac surgery consulted for coronary 
artery bypass graft evaluation. 
 
Past Medical History:
Diabetes Mellitus Type II
Hyperlipidemia
Hypertension

Surgical History:
Hernia Repair
 
Social History:
___
Family History:
Mother had MI in her ___
 
Physical Exam:
HR: 50.  BP: 134/77.  RR: 12.  O2 sat: 98% RA. 
Height: 66 in    Weight: 160 lbs

General: WDWN, NAD [x]
Skin: Dry [x] intact [x]
HEENT: PERRL [x] EOMI [x] teeth in fair repair [x]
Neck:  Supple [x] Full ROM [x] no LAD [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [x] II/VI at apex
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [] 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:2   Left:2
DP           Right:1   Left:1
___           Right:1   Left:1
Radial       Right:TR band   Left:1

Carotid Bruit:        Right: no   Left: no
Discharge Physical Exam:
98.3 PO 148 / 79 R Sitting 78 18 96 Ra  BG 138 WT 69.4 kg
.
Physical Examination:
General: NAD [x]  
Neurological: A/O x3 [x] Moves all extremities [x]  
HEENT:  PEERLA [] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub []  Paced 
[]
Respiratory: CTA [x]  No resp distress [x] 
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema -   
Left Upper extremity    Warm [x]  Edema -
Right Lower extremity   Warm [x]  Edema - 
Left Lower extremity    Warm [x]  Edema -
Pulses:
DP             Right: +2      Left:+2
___             Right: +2      Left:+2
Radial         Right: +2      Left:+2
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x] small spots of 
serous
drainage at mid pole 
                 Sternum stable [x] Prevena []
 
Pertinent Results:
Transesophageal Echocardiogram ___
Left Atrium ___ Veins: No spontaneous echo contrast 
is seen in the ___. No ___ 
mass/thrombus.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
No spontaneous echo contrast or thrombus is seen in the RA/RA 
appendage. Normal interatrial septum. No atrial septal defect by 
2D/color flow
Doppler.
Left Ventricle (LV): Normal wall thickness. Normal cavity size. 
Normal regional & global systolic function. Normal ejection 
fraction.
Right Ventricle (RV): Normal free wall motion.
Aorta: Normal sinus diameter. Normal ascending diameter. Normal 
arch diameter. Normal descending aorta diameter. No dissection. 
Simple atheroma of ascending aorta. Simple arch atheroma. Simple 
descending
atheroma.
Aortic Valve: Mildly thickened (3) leaflets. Minimal leaflet 
calcification. No stenosis. No regurgitation.
Mitral Valve: Mildly thickened/myxomatous leaflets. No stenosis. 
Mild annular calcification. Trace regurgitation.
Tricuspid Valve: Mildly thickened leaflets. Trace regurgitation.
Pericardium: No effusion.

POST-OP STATE: The TEE was performed at 14:34:00.
Support: Vasopressor(s): none.
Left Ventricle: Similar to preoperative findings.
Right Ventricle: No change in systolic function.
Aorta: Intact. No dissection.
Aortic Valve: No change in aortic valve morphology from 
preoperative state. No change in aortic regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state. No change in valvular regurgitation from 
preoperative state.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state.
. 
PA LAT: FINDINGS:  
Patient is status post CABG. Left basilar platelike atelectasis 
is improved compared to prior. There is no pleural effusion.  
There is no pneumothorax. IMPRESSION: Mild improvement in 
bibasilar atelectasis. 
.
KUB
FINDINGS: There are no abnormally dilated loops of large or 
small bowel. 
There is no free intraperitoneal air. 
Osseous structures are notable for mild degenerative changes in 
the lumbar 
spine. There are no unexplained soft tissue calcifications or 
radiopaque foreign bodies. 
IMPRESSION: No radiographic evidence of obstruction or ileus. 
.
Discharge Labs
___ 06:20AM BLOOD WBC-8.4 RBC-4.23* Hgb-12.0* Hct-36.7* 
MCV-87 MCH-28.4 MCHC-32.7 RDW-12.4 RDWSD-39.4 Plt ___
___ 06:20AM BLOOD Glucose-127* UreaN-19 Creat-1.1 Na-139 
K-4.8 Cl-96 HCO3-28 AnGap-15
___ 06:20AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.2
 
Brief Hospital Course:
He was admitted on ___ and was taken to the operating 
room. He underwent off-pump coronary artery bypass graft x1 with 
the skeletonized left internal mammary artery graft to left 
anterior descending artery. Please see operative note for full 
details. He tolerated the procedure well and was transferred to 
the CVICU in stable condition for recovery and invasive 
monitoring. 
 
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from a nitro gtt and 
transitioned to Imdur. Beta blocker was initiated and he was 
diuresed toward his preoperative weight. Patient had significant 
post-op nausea for 48hr which eventually resolved. He advanced 
to full diet, Liver function tests remained stable. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery. Pacing wires and chest tubes were 
removed without incident. Blood pressure medications were 
adjusted and BP remained stable. He was evaluated by the 
physical therapy service for assistance with strength and 
mobility. By the time of discharge on POD 4 he was ambulating 
freely, the wound was healing, and pain was controlled with oral 
analgesics. He was discharged home with ___ services in good 
condition with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Lisinopril 20 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D 400 UNIT PO DAILY 
5. PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Clopidogrel 75 MG PO DAILY Duration: 3 Months 
RX *clopidogrel 75 mg 75 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
4.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
Duration: 6 Months 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*5 
5.  Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*1 
6.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
7.  Senna 17.2 mg PO DAILY 
hold for loose stools  
8.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
9.  Aspirin EC 81 mg PO DAILY  
10.  Hydrochlorothiazide 25 mg PO DAILY 
Resume after completing Lasix  
11.  Lisinopril 20 mg PO DAILY  
12.  PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY  
13.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease

Secondary Diagnosis:
Diabetes Mellitus Type II
Hyperlipidemia
Hypertension

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
No edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___